US07579473B2
To a mixture of cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(7-hydroxy-6-methoxy-quinolin-4-yloxy)-phenyl]-amide(4-fluoro-phenyl)-amide (186 mg, 0.36 mmol) in CH2Cl2 (10 mL) was added 2-(diethylamino)ethanol (63 mg, 0.54 mmol), and PPh3 (141 mg, 0.54 mmol). DIAD (109 mg, 0.54 mmol) was then added as a CH2Cl2 (1 mL) solution. The resulted solution was stirred at room temperature for 2 h and the solvent was removed under reduced pressure. To the residue was added 1 N HCl (50 mL), and it was washed with EtOAc (50 mL×2). The aqueous phase was basified by adding 15% NaOH aqueous solution until pH=11-13, and then extracted with ether (50 mL×2). The combined organic layer was dried (MgSO4), and concentrated in vacuo. The residue was purified on preparative HPLC to give N-(4-{[7-{[2-(diethylamino)ethyl]oxy}-6-(methyloxy)quinolin-4-yl]oxy}-3-fluorophenyl)-N′-(4-fluoro-phenyl)cyclopropane-1,1-dicarboxamide (74 mg, 34%) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 10.40 (br s, 1H), 10.02 (br s, 1H), 8.47 (d, J=5.2 Hz, 1H), 7.91 (br d, J=13.9 Hz, 1H), 7.54-7.52 (m, 2H), 7.55-7.50 (m, 1H), 7.52 (s, 1H), 7.50-7.40 (m, 1H), 7.41 (s, 1H), 7.16 (br t, J=8.7 Hz, 2H), 6.41 (br d, J=4.7 Hz, 1H), 4.18 (t, J=6.0 Hz, 2H), 3.94 (s, 3H), 2.87 (br t, J=6.3 Hz, 2H), 2.59 (q, J=7.1 Hz, 4H), 1.47 (br s, 4H), 1.00 (t, J=7.0 Hz, 6H).

reactant | cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(7-hydroxy-6-methoxy-quinolin-4-yloxy)-phenyl]-amide(4-fluoro-phenyl)-amide | 0.36 mmol, 186 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)F | C27H21F2N3O5
reactant | 2-(diethylamino)ethanol | 0.54 mmol, 63 mg | C(C)N(CCO)CC | C6H15NO
reactant | PPh3 | 0.54 mmol, 141 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.54 mmol, 109 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{[7-{[2-(diethylamino)ethyl]oxy}-6-(methyloxy)quinolin-4-yl]oxy}-3-fluorophenyl)-N′-(4-fluoro-phenyl)cyclopropane-1,1-dicarboxamide | 74 mg, 34% | C(C)N(CCOC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F)OC)CC | C33H34F2N4O5
